US06100398
The above general procedure was followed using 4-bromoanisole (187 mg, 1.00 mmol) and N-methylaniline (107 mg, 1.00 mmol) with 1 mol % Pd(dba)2 and 0.8 mol % tri-t-butylphosphine in 1.0 mL of toluene. After 6 hours, the reaction mixture was adsorbed onto silica gel and chromatographed with 5% ethyl acetate/hexanes to give 218 mg (>99%) of N-(4-methoxyphenyl)-N-methylaniline. 1H NMR (500 MHz, CDCl3) δ 7.21 (dd, J=8.9, 7.0 Hz, 2H), 7.12 (d, J=8.8 Hz, 2H), 6.91 (d, J=8.8 Hz, 2H), 6.81 (d, J=8.4 Hz, 2H), 6.80 (t, J=7.0 Hz, 1H), 3.83 (s, 3H), 3.28 (s, 3H). 13C NMR (125 MHz, CDCl3) δ 156.3, 149.8, 142.4, 128.9, 126.1, 118.5, 115.9, 114.8, 55.5, 40.4.

reactant | 4-bromoanisole | 1.00 mmol, 187 mg | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | N-methylaniline | 1.00 mmol, 107 mg | CNC1=CC=CC=C1 | C7H9N
reactant | tri-t-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-(4-methoxyphenyl)-N-methylaniline | 218 mg, >99% | COC1=CC=C(C=C1)N(C1=CC=CC=C1)C | C14H15NO
